US08809331B2
A mixture of (4-amino-5-methoxy-2-methylphenyl)(morpholino) methanone (2.12 g, 8.47 mmol), 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine (1.79 g, 8.47 mmol) and para-toluene sulfonic acid (1.62 g, 8.47 mmol) in dioxane (80 mL) was heated to 100° C. for 18 h. Saturated aqueous sodium bicarbonate solution (100 mL) and DCM (100 mL) were added, the organic phase was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification of the residue via silica gel column chromatography (0-100% EtOAc in iso-hexane) gave (5-methoxy-2-methyl-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)(morpholino)methanone (2.1 g, 58%) as an off-white solid. LCMS (10 cm_ESCI_Bicarb_MeCN): [M+H]+=426 at 2.59 min. 1H NMR (400 MHz, CDCl3): δ 8.47 (s, 1H), 8.18 (s, 1H), 7.74 (s, 1H), 6.71 (s, 1H), 5.25 (br s, 1H), 3.88 (s, 3H), 3.80 (br d, 4H), 3.59 (br s, 2H), 3.31 (br s, 2H), 3.12 (d, 3H), 2.28 (s, 3H).

reactant | (4-amino-5-methoxy-2-methylphenyl)(morpholino) methanone | 8.47 mmol, 2.12 g | NC1=CC(=C(C=C1OC)C(=O)N1CCOCC1)C | C13H18N2O3
reactant | 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine | 8.47 mmol, 1.79 g | ClC1=NC=C(C(=N1)NC)C(F)(F)F | C6H5ClF3N3
reactant | para-toluene sulfonic acid | 8.47 mmol, 1.62 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (5-methoxy-2-methyl-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)(morpholino)methanone | 2.1 g, 58% | COC=1C(=CC(=C(C1)C(=O)N1CCOCC1)C)NC1=NC=C(C(=N1)NC)C(F)(F)F | C19H22F3N5O3
